US06872515B2
6-3 Synthesis of Sodium Mono(2-ethylhexyl)mono(2,2,3,3,4,4,4-heptafluorobutyl)sulfosuccinate (FS-302)
Mono(2-ethylhexyl)mono(2,2,3,3,4,4,4-heptafluorobutyl)maleate (80.3 g, 0.196 mol), sodium hydrogensulfite (20.4 g, 0.196 mol) and water/ethanol (80 mL, 1:1 (v/v)) were mixed and refluxed for 10 hours with heating. Then, the reaction mixture was added with ethyl acetate (1000 mL), and the organic phase was washed with saturated sodium chloride aqueous solution. Thereafter, the organic layer was collected, and the organic solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=9/1 (v/v)). The corrected organic phase was washed with a saturated sodium chloride aqueous solution, and then the organic solvent was evaporated under reduced pressure to obtain the target compound (32 g, yield: 32%) as colorless transparent solid.

reactant | Mono(2-ethylhexyl)mono(2,2,3,3,4,4,4-heptafluorobutyl)maleate | 0.196 mol, 80.3 g | C(C)C(COC(\C(=C/C(=O)[O-])\CC(C(C(F)(F)F)(F)F)(F)F)=O)CCCC
reactant | sodium hydrogensulfite | 0.196 mol, 20.4 g | S(=O)(O)[O-].[Na+]
reactant | water ethanol | 80 mL | O.C(C)O
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
product | Sodium Mono(2-ethylhexyl)mono(2,2,3,3,4,4,4-heptafluorobutyl)sulfosuccinate | 32 g, yield: 32% | C(C)C(COC(C(CC(=O)[O-])(S(=O)(=O)O)CC(C(C(F)(F)F)(F)F)(F)F)=O)CCCC.[Na+] | InChI=1S/C16H23F7O7S.Na/c1-3-5-6-10(4-2)8-30-12(26)13(7-11(24)25,31(27,28)29)9-14(17,18)15(19,20)16(21,22)23;/h10H,3-9H2,1-2H3,(H,24,25)(H,27,28,29);/q;+1/p-1
